US07435750B2
3-(4-Azidophenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole
To a mixture of 3-(4-aminophenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole (15.5 mg, 0.05 mmol) in acetic acid (2 mL) and conc. sulfinuric acid (0.3 mL) was added sodium nitrite (3.8 mg, 0.055 mmol) in water (0.5 mL). The mixture was stirred vigorously at 0-5° C. for 20 min, then sodium azide (3.6 mg, 0.055 mmol) in water (0.5 mL) was added. It was stirred at 0-5° C. for 3 h and then poured into ice water (30 mL). The resultant mixture was extracted with ethyl acetate (3×10 mL). The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The crude residue was purified by flash chromatography to yield 16 mg (100%) of the title compound. 1H NMR (CDCl3): 8.18 (d, J=8.7 Hz, 2H), 7.63 (d, J=5.4 Hz, 1H), 7.18 (d, J=8.7 Hz, 1H), 7.16 (d, J=5.4 Hz, 2H).

reactant | 3-(4-aminophenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole | 0.05 mmol, 15.5 mg | NC1=CC=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl | C12H8ClN3OS
reactant | sodium nitrite | 0.055 mmol, 3.8 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 0.055 mmol, 3.6 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | 3-(4-Azidophenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole | 16 mg, 100% | N(=[N+]=[N-])C1=CC=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl | C12H6ClN5OS
